US04772600
N-[[2-(4-Chlorophenyl)-3H-imidazo[4,5-b]pyridin-3-yl]acetyl]glycine ethyl ester
Under nitrogen bubbling, a mixture of 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid, 5.0 g (0.0174 mole) and 1,1'-carbonyldiimidazole (2.82 g, 0.0174 mole) in 150 ml of tetrahydrofuran was stirred at room temperature for 3 hrs. The ethyl glycinate (2.65 g, 0.019 mole) and triethylamine (1.92 g, 0.019 mole) were added dropwise and the reaction was allowed to stir at room temperature overnight.

reactant | 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
reactant | 1,1'-carbonyldiimidazole | 0.0174 mole, 2.82 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ethyl glycinate | 0.019 mole, 2.65 g | NCC(=O)OCC | C4H9NO2
reactant | triethylamine | 0.019 mole, 1.92 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | N-[[2-(4-Chlorophenyl)-3H-imidazo[4,5-b]pyridin-3-yl]acetyl]glycine ethyl ester | C(C)OC(CNC(CN1C(=NC=2C1=NC=CC2)C2=CC=C(C=C2)Cl)=O)=O | C18H17ClN4O3
